US08236823B2
Synthesis of N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine
The title compound was made using a procedure described in Collins, et. al., Tetrahedron, Vol. 48, No. 37, pp 7887-7898, 1992. To a solution of 1-fluoro-2-nitro-4-trifluoromethyl-benzene (1.0 g, 4.78 mmol) in dry THF (24 mL) was added N1,N1,N3-trimethylpropane-1,3-diamine (0.64 mL, 5.7 mmol). The solution turned bright yellow. NaHCO3 (1.1 g, 13 mmol) was added and the reaction was stirred at room temperature and monitored by LCMS. The reaction was filtered and concentrated before being taken up in CH2Cl2 and H2O. The organic layer was separated, dried with MgSO4, filtered, and concentrated to afford the title compound as an orange-brown oil.

reactant | 1-fluoro-2-nitro-4-trifluoromethyl-benzene | 4.78 mmol, 1.0 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | N1,N1,N3-trimethylpropane-1,3-diamine | 5.7 mmol, 0.64 mL | CN(CCCNC)C | C6H16N2
reactant | NaHCO3 | 13 mmol, 1.1 g | C(=O)(O)[O-].[Na+]
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine | CN(CCCN(C=1C(=CC(=CC1)C(F)(F)F)N)C)C | C13H20F3N3
